US08729263B2
To a solution of (4-bromo-3-methoxyphenyl)hydrazine (62 g, 245 mmol) in ethanol (310 mL) was added tetramethoxypropane (40.2 g, 245 mmol) over a few minutes, and the mixture was heated to an internal temperature of 70° C. The mixture was stirred at 70° C. for 1.5 h then slowly cooled to RT. Ethanol was removed in vacuo and the residue was slurried in EtOAc. The residue was neutralized with 1 M aqueous sodium hydroxide (˜700 mL) to cause precipitation. The biphasic mixture was filtered and the filtrate was extracted with EtOAC, dried over sodium sulfate and concentrated to provide 30 g of 1-(4-bromo-3-methoxyphenyl)-1H-pyrazole as a black solid (30 g, MS: 254 [M+H+].).

reactant | (4-bromo-3-methoxyphenyl)hydrazine | 245 mmol, 62 g | BrC1=C(C=C(C=C1)NN)OC | C7H9BrN2O
reactant | tetramethoxypropane | 245 mmol, 40.2 g | COC(C(OC)(OC)OC)C | C7H16O4
solvent | ethanol | 310 mL | C(C)O | C2H6O
product | 1-(4-bromo-3-methoxyphenyl)-1H-pyrazole | 30 g | BrC1=C(C=C(C=C1)N1N=CC=C1)OC | C10H9BrN2O
